datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[NH:10](C)C(C)C(O)C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[O-:10]C(C)C([H])C([H])C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])C([H])C(C)[O:10]1 10=20;20,21=21"
"[O:10]([K])C(CC)C(C)C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([O][H])[O]CC.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10][H].[H][NH+:21]=[C:20]([NH][H])[O][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([NH][H])[O][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[OH:21][CH:20]2(OCC)C(C3=C(C([OH+:10]2)[H])C=CC=C3)[H]>>[OH:10]C(C1=C(C([CH:20](OCC)=[OH+:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21][H])([S]CC)[O][H].[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([S]CC)[O][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21][H] 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]CCCCCC>>CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1([H])[NH+:10](C)C(C)C(C)=C1[H]>>[NH:10](C)C(C)/C(C)=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
"[OH:21][CH:20]2([H])C(C3=C(C([OH+:10]2)C)C=CC=C3)O>>[OH:10]C(C1=C(C([CH:20]([H])=[OH+:21])O)C=CC=C1)C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C(C)C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])/C(C)=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.[H][S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C([H])C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C([H])C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(CCC)C(O)=C1O>>[O:10]([Na])C(CCC)/C(O)=C([C:20]([H])=[O:21])/O 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O:21]=[C:20](OC)O[H].[O-:10]C1=CC=CC=C1>>C1=CC=CC=C1[O:10][C:20]([O-:21])(OC)O[H] 10=20;20,21=21"
